US07015218B1
N-[3-Bromo-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide ½ hydrate
By the reaction and treatment in the same manner as in Example 150 using 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic chloride (1.7 g) and 3-bromo-4-(4-morpholinopiperidin-1-yl)aniline (2.0 g), the title compound (2.1 g) was obtained, melting point: 220–230° C.

reactant | 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic chloride | 1.7 g | CC1=C(C=NN1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C12H8ClF3N2O
reactant | 3-bromo-4-(4-morpholinopiperidin-1-yl)aniline | 2.0 g | BrC=1C=C(N)C=CC1N1CCC(CC1)N1CCOCC1 | C15H22BrN3O
product | N-[3-Bromo-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide | 2.1 g | BrC=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)C(F)(F)F | C27H29BrF3N5O2
